US05013829
To a solution of 2-iodoadenosine (0.500 g, 1.27 mmol) in DMF (70 mL) was added tetrakis(triphenylphosphine)palladium (0) (0.220 g, 0.19 mmol) and n-tributyltin cyanide (0.442 g, 1.39 mmol). The mixture was stirred at 120° C. for 20 h under nitrogen. The solvent was then evaporated and the residue was purified on silica gel to give 2-cyanoadenosine in 86% yield. 2-Cyanoadenosine was converted to I by using in sequence the following procedures: Procedure A (60% yield), Procedure B (89% yield), Procedure C (60% yield), Procedure D (63% yield), Procedure E (70% yield) and Procedure F (70% yield): mp 195°-197° C.; 13C NMR (Me2SO-d6) 625.4, 32.0, 62.6, 82.3, 84.7, 117.0, 120.7, 136.6, 141.5, 147.9, 156.2; 1H NMR (Me2SO-d6) δ2.06 (m, 2H), 2.39 (m, 2H), 3.56 (m, 2H), 4.13 (m, 1H), 4.92 (m, 1H), 6.24 (m, 1H), 7.90 (br.s, 2H), 8.59 (s, 1H); UV (H2O) λmax 297 nm (ε6470), 266 nm (ε9980), 260 nm (ε9270); FAB HRMS obsd (M+ +H) 261.1069, calcd for C11H12N6O2 261.1099.

reactant | 2-iodoadenosine | 1.27 mmol, 0.500 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
reactant | DMF | 70 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.19 mmol, 0.220 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-cyanoadenosine | 86% yield | C(#N)C=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C11H12N6O4
